US07935674B2
4-Fluoro-3-(4-(2-fluoroethyloxy)phenylmethyl)-1-(β-D-gluco-pyranosyl)indole
4-Fluoro-1-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)indole obtained in Example 2-(3) and 4-(2-fluoroethyloxy)benzoyl chloride were treated in a manner similar to Example 2-(4), (5), (6) and (7) to give the titled compound as a colorless powder. APCI-Mass m/Z 467 (M+NH4). 1H-NMR (DMSO-d6) δ 3.15-3.41 (m, 4H), 3.65 (m, 2H), 4.01 (s, 2H), 4.12 (m, 1H), 4.22 (dd, J=4.7, 3.2 Hz, 1H), 4.53 (t, J=5.5 Hz, 1H), 4.63 (m, 1H), 4.78 (m, 1H), 5.09 (d, J=5.3 Hz, 1H), 5.16 (d, J=5.0 Hz, 1H), 5.21 (d, J=5.9 Hz, 1H), 5.36 (d, J=9.1 Hz, 1H), 6.74 (dd, J=11.4, 7.8 Hz, 1H), 6.87 (d, J=8.6 Hz, 2H), 7.06 (dt, J=8.1, 5.2 Hz, 1H), 7.18 (d, J=8.6 Hz, 2H), 7.20 (s, 1H), 7.35 (d, J=8.4 Hz, 1H).

reactant | 4-Fluoro-1-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)indole | FC1=C2C=CN(C2=CC=C1)[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O | C22H24FNO9
reactant | 4-(2-fluoroethyloxy)benzoyl chloride | FCCOC1=CC=C(C(=O)Cl)C=C1 | C9H8ClFO2
product | 4-Fluoro-3-(4-(2-fluoroethyloxy)phenylmethyl)-1-(β-D-gluco-pyranosyl)indole | FC1=C2C(=CN(C2=CC=C1)[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)CC1=CC=C(C=C1)OCCF | C23H25F2NO6
